US08471005B2
[3-Methoxy-4-(1-methyl-piperidin-4-yl)-phenyl]-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine.
Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester (0.138 g, 0.369 mmol) and 3-Methoxy-4-(1-methyl-piperidin-4-yl)-phenylamine (0.102 g, 0.461 mmol) were reacted in an analogous manner to Example 908D at room temp for 72 h. The reaction mixture was concentrated, taken up in EtOAc, and washed with brine. The EtOAc layer was dried, filtered over MgSO4, and concentrated. The resulting residue was purified by Gilson RP-HPLC and lyophilized. HPLC rt=2.455 min, purity=98%, LCMS=445.0 (M+H). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.47 (s, 1H), 9.29 (bs, 1H), 9.02 (s, 1H), 8.99 (d, 1H), 7.47 (s, 1H0, 7.23 (d, J=7.5 Hz, 1H), 7.17 (d, J=4.8 Hz, 1H), 7.03 (d, J=8.2 Hz, 1H), 7.17 (d, J=4.8 Hz, 1H), 7.03 (d, J=8.2 Hz, 1H), 6.98 (s, 1H), 6.96 A (d, J=4.1 Hz, 1H), 3.93 (s, 3H), 3.71 (s, 3H), 3.49 (d, J=11.7 Hz, 2H), 3.11-3.05 (m, 3H), 2.80 (d, J=4.0 Hz, 3H), 1.95-1.76 (m, 4H).

reactant | Trifluoro-methanesulfonic acid 7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl ester | 0.369 mmol, 0.138 g | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)OS(=O)(=O)C(F)(F)F | C13H9F3N4O4S
reactant | 3-Methoxy-4-(1-methyl-piperidin-4-yl)-phenylamine | 0.461 mmol, 0.102 g | COC=1C=C(C=CC1C1CCN(CC1)C)N | C13H20N2O
product | [3-Methoxy-4-(1-methyl-piperidin-4-yl)-phenyl]-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-amine | COC=1C=C(C=CC1C1CCN(CC1)C)NC1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C25H28N6O2
